US08258141B2
O1: (R)-3-[(Pyridine-4-carbonyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
A cooled (0° C.) stirred solution of (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 5.36 mmol) and TEA (1.5 ml, 11.0 mmol) in THF (10 ml) is treated dropwise over 1 minute with pyridine-4 carbonyl chloride hydrochloride (0.935 g, 5.25 mmol). After 5 minutes, the reaction mixture is allowed to warm to room temperature and stirred overnight. The resulting mixture is diluted with EtOAc and washed twice with saturated sodium bicarbonate solution followed by brine. The organic portion is dried (MgSO4) and concentrated in vacuo. The crude product is purified by recrystallisation from EtOAc/iso-hexane to afford the title product. [MH+ 292].

reactant | (R)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.36 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N | C9H18N2O2
reactant | pyridine-4 carbonyl chloride hydrochloride | 5.25 mmol, 0.935 g | Cl.N1=CC=C(C=C1)C(=O)Cl
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-3-[(Pyridine-4-carbonyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC(=O)C1=CC=NC=C1 | C15H21N3O3
